US05296492
Forty milliliters of an anhydrous tetrahydrofuran solution containing 1.53 g of 6-cyano-2,2-dimethyl-4-(1,2-dihydro-2-oxo-4-formyl-1-pyridinyl)-2H-benzo[b]pyran, obtained in Example 25, is added at 0° C. to a Grignard reagent solution prepared from 0.19 g of magnesium and 1.94 g of 1-bromo-3-p-methoxybenzyloxy propane in 5 ml anhydrous tetrahydrofuran, and the resulting mixture is reacted first at that temperature for 10 minutes and then at room temperature for one hour. After stopping the reaction by adding a saturated aqueous solution of ammonium chloride, the reaction mixture is extracted with ethyl acetate. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The inorganic matter is filtered off and the filtrate is concentrated under reduced pressure. The residue is purified by silica gel column chromatography using 1/1 mixture of ethyl acetate/methylene chloride as a developing solvent. Thus, 1.43 g of 6-cyano-2,2-dimethyl-4-{1,2-dihydro-2-oxo-4-(1-hydroxy-4 -p-methoxybenzyloxybutyl)-1-pyridinyl}-2H-benzo[b]pyran is obtained.

reactant | 6-cyano-2,2-dimethyl-4-(1,2-dihydro-2-oxo-4-formyl-1-pyridinyl)-2H-benzo[b]pyran | 1.53 g | C(#N)C1=CC2=C(OC(C=C2N2C(C=C(C=C2)C=O)=O)(C)C)C=C1 | C18H14N2O3
reactant | magnesium | 0.19 g | [Mg] | Mg
reactant | 1-bromo-3-p-methoxybenzyloxy propane | 1.94 g | BrCCCOCC1=CC=C(C=C1)OC | C11H15BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | Forty milliliters | O1CCCC1 | C4H8O
product | 6-cyano-2,2-dimethyl-4-{1,2-dihydro-2-oxo-4-(1-hydroxy-4 -p-methoxybenzyloxybutyl)-1-pyridinyl}-2H-benzo[b]pyran | 1.43 g | C(#N)C1=CC2=C(OC(C=C2N2C(C=C(C=C2)C(CCCOCC2=CC=C(C=C2)OC)O)=O)(C)C)C=C1 | C29H30N2O5
